* Schematics Netlist *



X_U4A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0004 $N_0003 $N_0005 $N_0001 $N_0006 $N_0002 $G_DPWR $G_DGND
+  74393 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $N_0007 $N_0008 $N_0009 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0003 $N_0009 $N_0010 $N_0007 $N_0011 $N_0008 $G_DPWR $G_DGND
+  74393 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0012 $N_0013 $N_0014 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0009 $N_0014 $N_0015 $N_0012 $N_0016 $N_0013 $G_DPWR $G_DGND
+  74393 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11         $N_0015 $N_0012 $N_0016 $N_0013 $N_0017 $N_0018 $N_0019 $N_0020
+  $N_0021 $N_0022 $N_0023 $N_0024 $G_DPWR $G_DGND 7449 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9         $N_0005 $N_0001 $N_0006 $N_0002 $N_0025 $N_0026 $N_0027 $N_0028
+  $N_0029 $N_0030 $N_0031 $N_0032 $G_DPWR $G_DGND 7449 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10         $N_0010 $N_0007 $N_0011 $N_0008 $N_0033 $N_0034 $N_0035 $N_0036
+  $N_0037 $N_0038 $N_0039 $N_0040 $G_DPWR $G_DGND 7449 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
D_D60         $N_0040 0 D1N4002 
D_D67         $N_0024 0 D1N4002 
X_X1         0 0 $N_0004 0 0 0 0 +5v 555D PARAMS: MAXFREQ=3E6
D_D57         $N_0029 0 D1N4002 
D_D58         $N_0028 0 D1N4002 
D_D68         $N_0021 0 D1N4002 
D_D69         $N_0020 0 D1N4002 
D_D61         $N_0037 0 D1N4002 
D_D62         $N_0036 0 D1N4002 
D_D51         $N_0032 0 D1N4002 
D_D53         $N_0031 0 D1N4002 
D_D52         $N_0030 0 D1N4002 
D_D59         $N_0027 0 D1N4002 
D_D56         $N_0026 0 D1N4002 
D_D65         $N_0039 0 D1N4002 
D_D63         $N_0038 0 D1N4002 
D_D64         $N_0035 0 D1N4002 
D_D66         $N_0034 0 D1N4002 
D_D72         $N_0023 0 D1N4002 
D_D70         $N_0022 0 D1N4002 
D_D71         $N_0019 0 D1N4002 
D_D73         $N_0018 0 D1N4002 
